US07939698B2
In two self assembled multi-injection microreactors having 2 to 6 reaction regions assembled from separate injection points, mixing zones and reaction zones (each reaction comprising one injection point, one mixing zone and one reaction zone), 2-chloro propionic chloride (13.5 wt %) in tetrahydrofuran (THF, 86.5 wt %) as flow A and phenethylmagnesium bromide (1 eq., 10 wt %) in THF (1 eq., 90 wt %) as flow B were reacted. The microreactors were placed in a bath at 20° C. Temperature adjustment of the microreactors depended on heat exchange on the outer surface of the single parts of the modules. The microreactor of examples 1.1 to 1.5 comprised reaction zones of about 0.2 mL internal volume allowing almost no cooling between the injection points. The microreactor of examples 1.6 to 1.10 comprised reaction zones of about 2.0 mL internal volume allowing at least a low effective cooling (LEC) between the injection points. Flow rates of 20 and 40 g/min were performed. The 2nd reactant was fed to the 1st reactant in equimolar ratio. The yields of the product 4-chloro-1-phenyl-pentan-3-one collected after the respective reaction zone are shown in table 1 and 2 in relation to feed rate and cooling conditions.

reactant | 2-chloro propionic chloride | ClC(C(=O)Cl)C | C3H4Cl2O
reactant | phenethylmagnesium bromide | 1 eq. | C(CC1=CC=CC=C1)[Mg]Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | 1 eq. | O1CCCC1 | C4H8O
product | 4-chloro-1-phenyl-pentan-3-one | ClC(C(CCC1=CC=CC=C1)=O)C | C11H13ClO
